US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 20 mg, 0.046 mmol) was dissolved in DMF (1 mL) prior to the addition of 4-methylmorpholine (0.031 mL, 0.278 mmol), N-methylethanamine (4.93 mg, 0.083 mmol), and HATU (31.7 mg, 0.083 mmol). This was stirred overnight and was then purified by preparative HPLC (PHENOMENEX® Luna 5u C18 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 10 min, 20 mL/min, 220 nM, product retention=12.2 min) to give (R/S)-N-ethyl-2-hydroxy-N-methyl-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (11 mg, 0.022 mmol, 47.7% yield): LCMS=473.2 [M+H]+; 1H NMR (mixture of rotamers, 400 MHz, methanol-d4) δ ppm 8.16-8.27 (2H, m), 7.48-7.75 (7 H, m), 5.54 (1 H, s), 5.51 (1 H, s), 3.35-3.55 (2 H, m), 2.96 (3 H, s), 2.91 (3 H, s), 1.11 (3 H, t, J=7.15 Hz), 0.92 (3 H, t, J=7.04 Hz).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.046 mmol, 20 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | 4-methylmorpholine | 0.278 mmol, 0.031 mL | CN1CCOCC1 | C5H11NO
reactant | N-methylethanamine | 0.083 mmol, 4.93 mg | CNCC | C3H9N
reactant | HATU | 0.083 mmol, 31.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-N-ethyl-2-hydroxy-N-methyl-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.022 mmol, 11 mg, 47.7% yield | C(C)N(C(C(C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)O)=O)C | C23H19F3N4O4
